US05492905
Example 31. 4-Benzyl-3-hydroxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine.
To a solution of 4-benzyl-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (0.45 g) in dichloromethane was added boron tribromide (4.6 mL). Upon completion of the reaction, the mixture was added to ice water and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried and evaporated. The resulting solid was recrystallized from toluene to give the title compound (0.336 g); mp 199°-200° C.; NMR: 3.97 (s,2); MS(EI): m/z=279(M). Analysis for C17H13NO3 ·0.1 H2O: Calculated: C, 72.64; H, 4.73; N, 4.98; Found: C, 72.65; H, 4.59; N, 4.94.

reactant | 4-benzyl-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.45 g | C(C1=CC=CC=C1)C=1C(C2=C(NC(C1OC)=O)C=CC=C2)=O | C18H15NO3
reactant | boron tribromide | 4.6 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Benzyl-3-hydroxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.336 g | C(C1=CC=CC=C1)C=1C(C2=C(NC(C1O)=O)C=CC=C2)=O | C17H13NO3
